US04727073
A mixture of 6-methyl-5-(4-formylpiperazin-1-ylmethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine (4.5 g) and hydrochloric acid (2 ml) in methyl alcohol (45 ml) was stirred at 10° C. for 2 hours. The resulting precipitates were collected by filtration, washed with methyl alcohol and dried in vacuo to give 6-methyl-5-(4-formylpiperazin-1-ylmethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine hydrochloride (4.14 g).

reactant | 6-methyl-5-(4-formylpiperazin-1-ylmethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine | 4.5 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])CN1CCN(CC1)C=O | C23H23N5O3
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | methyl alcohol | 45 ml | CO | CH4O
product | 6-methyl-5-(4-formylpiperazin-1-ylmethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine hydrochloride | 4.14 g | Cl.CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])CN1CCN(CC1)C=O | InChI=1S/C23H23N5O3.ClH/c1-17-21(15-26-10-12-27(16-29)13-11-26)22(19-8-5-9-20(14-19)28(30)31)25-23(24-17)18-6-3-2-4-7-18;/h2-9,14,16H,10-13,15H2,1H3;1H
